2106-07-21 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2106-7-21**] 04:00 AM
 FEVER - 101.2
F - [**2106-7-21**] 12:00 AM
   [**2106-7-20**]
   - head CT showed no significant change from [**2104**] scan, still had
   enlargement of whole ventricular system, fragment of shunts,
   encephalomalacia and parenchymal atrophy
   - neck CT showed findings suggestive of likely R IJ thombosis, with
   vein wall enhancement, and peri-venous inflammation suggesting possible
   R IJ thrombophlebitis. Enlarged R submandibular gland, with surrounding
   fat stranding, concerning for cellulites (2:31). No definite fluid
   collection seen. Small reactive lymph nodes in the
   area.
   - decided against overnight anticoagulation
   - febrile around 1am, added zosyn for GN coverage
   - placed extra PIV with ultrasound guidance, still poor access
   - BPs trending down 80s/50s
   - responded to 1L NS and stabalized with HRs in 90s, BPs 90s/60s
   - lost new PIV, placed order for PICC eval in morning
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2106-7-20**] 10:30 PM
   Piperacillin - [**2106-7-21**] 03:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-7-21**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-7-21**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.2
C (98.9
   HR: 87 (85 - 129) bpm
   BP: 91/60(67) {85/54(60) - 127/76(94)} mmHg
   RR: 19 (7 - 35) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,240 mL
                                                                  1,274 mL
   PO:
             100 mL
   TF:
   IVF:
                                                                  1,240 mL
                                                                  1,174 mL
   Blood products:
   Total out:
                                                                  2,670 mL
                                                                  1,235 mL
   Urine:
                                                                  2,670 mL
                                                                  1,235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    570 mL
                                                                     39 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   Gen - chronically ill appearing M, no acute distress
   HEENT - AT, R jaw swelling, tender to palpation, PERRLA, no tracking,
   occassionally blinks continuously for 20-30 seconds, supple neck, no
   LAD, slightly [**Hospital1 **] on R side beneath jaw
   CV - RRR, no m,r,g
   Lungs - CTA B, no wheezes, rhonchi or rales
   Abd - soft, NT, ND, no hsm or masses, normoactive bowel sounds
   Back - two well healing pink ulcers on bilateral buttock, no open or
   weeping sores, no erythema; on L mid back beneath his shoulder blade,
   slight firm protuberance with linear erythematous line
   Ext - warm, well perfused, contracted wrists and feet, well healed R
   medial malleolous ulcer, no edema
   Neuro - CN intact, does not follow, moves upper extremities, contracted
   wrists; no movement of lower extremities
   Labs / Radiology
   311 K/uL
   9.9 g/dL
   89 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.6 mEq/L
   1 mg/dL
   109 mEq/L
   142 mEq/L
   31.6 %
   10.0 K/uL
        [image002.jpg]
                             [**2106-7-20**]  09:50 PM
                             [**2106-7-21**]  03:40 AM
   WBC
   10.3
   10.0
   Hct
   33.0
   31.6
   Plt
   358
   311
   Cr
   0.5
   0.5
   Glucose
   102
   89
   Other labs: PT / PTT / INR:15.0/33.0/1.3, ALT / AST:24/20, Alk Phos / T
   Bili:212/0.6, Differential-Neuts:70.6 %, Lymph:23.7 %, Mono:3.4 %,
   Eos:1.8 %, Lactic Acid:0.8 mmol/L, Albumin:2.3 g/dL, LDH:168 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   32 y/o M with hx of traumatic brain injury, paraplegia, and seizures
   presents with UTI on [**7-18**].  He then developed fevers and hypotension
   overnight on [**7-19**] and has coag + SA in his blood cultures.  On exam, has
   new fullness of R jaw and tenderness to palpation, concerning for
   possible abscess.
   .
   # Bacteremia - has new staph aureus bacteremia, source unknown at this
   time, but concerning for facial abscess.  Hemodynamics unstable on the
   floor with hypotension but since admission to MICU have been stable.
   CT scan showed submandibular enlargement and stranding.  Has R IJ
   thrombus.  Possible Lemmiere
s syndrome.
   - ENT consult today
   - neurosurg consult for possible removal of shunts as they run through
   infected neck space
   - cont vanco
   - cont Zosyn for anaerobe and gram neg coverage from mouth flora
   - surveillance blood cultures
   .
   # RIJ thrombophlebitis
 will start heparin gtt once procedures
   completed
   .
   # Hypotension - in the setting of high grade bacteremia, responded to
   fluid boluses on the floor, continues to be mildly hypotensive on the
   floor.
   - IVFs as needed
   - monitor urine output
   - monitor respiratory status for fluid overload, stable now
   - will obtain central access for possible need of pressor support
   .
   # UTI - has pan-[**Last Name (un) **] proteus UTI, which is likely a separate process
   from the staph aureus bacteremia
   - stopped ceftriaxone, Zosyn will cover proteus [**First Name9 (NamePattern2) **] [**Last Name (un) **]
   - foley changed and negative urine cx since change
   - does not have indwelling foley, once stabalized, consider d/c'ing
   foley and using home diapers
   .
   # Cough/SOB - CXR without evidence of pneumonia, no obvious source.
   Patient passed a speech and swallow.
   - has risk of septic pulmonary embolic
   - heparin and abx as above
   - otherwise no obvious source for cough at this time, no hypoxic
   .
   # Hydrocephalus - has known hydrocephalus and a shunt that was last
   imaged in [**7-24**] that showed a non-working shunt; in setting of new
   bacteremia and foreign body, would need to consider seeding, no
   evidence of altered mental status at this time, though.
   - head CT without change from last year
   - would need to consider lumbar puncture or shunt tap if the suspected
   source of bacteremia is negative
   - f/u neurosurg recs
   .
   # Seizures - stable, last seizure one year ago
   - continue keppra at home dose
   .
   # Contractures - stable, moves upper extremities, need to keep L arm
   restrained because patient likes to bite on it.
   - continue baclofen as has case reports of withdrawl from it
   - hold if hypotensive
   .
   # FEN - NPO for now, has passed speech and swallow and can have regular
   diet when he proves to be hemodynamically stable
   .
   # Access
 0 [**Last Name (LF) **], [**First Name3 (LF) 178**] place femoral line today, PICC when afebrile
   for period of time
   .
   # PPx
 hep gtt after line placement, no GI ppx indicated, bowel reg
   PRN, head of bed altered while mental status depressed
   .
   # Communication - with his mom (spanish speaking)
   .
   # Code - full, confirmed with mother
   .
   # Dispo - ICU overnight
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2106-7-20**] 04:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2106-07-21 09:23:00 Physician Attending Progress Note
Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   32M with TBI, persist veg state, initially admitted with "blue spells"
   but dx with uti in ed, hypotensive with positive blood cultures on
   floor, txr to micu:
   24 Hour Events:
   -admit to  micu in pm
   -neck ct concerning for r neck/jaw collection and ?r ij thrombosis
   -mild hypotension o/n, responsive to fluids
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2106-7-21**] 03:00 AM
   Vancomycin - [**2106-7-21**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-7-21**] 08:00 AM
   Other medications:
   baclofen, sqh, vanco, keppra, ctx, zosyn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: No(t) Dry mouth, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain
   Nutritional Support: NPO
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Signs or concerns for abuse
   Pain: Unable to answer
   Flowsheet Data as of  [**2106-7-21**] 09:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.3
C (99.1
   HR: 95 (82 - 129) bpm
   BP: 98/56(66) {85/54(60) - 127/76(94)} mmHg
   RR: 23 (7 - 35) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,240 mL
                                                                  1,586 mL
   PO:
             200 mL
   TF:
   IVF:
                                                                  1,240 mL
                                                                  1,386 mL
   Blood products:
   Total out:
                                                                  2,670 mL
                                                                  1,400 mL
   Urine:
                                                                  2,670 mL
                                                                  1,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    570 mL
                                                                    186 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress, No(t) Overweight / Obese, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, R cheek / neck
   more swollen but less tender
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.9 g/dL
   311 K/uL
   89 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.6 mEq/L
   1 mg/dL
   109 mEq/L
   142 mEq/L
   31.6 %
   10.0 K/uL
        [image002.jpg]
                             [**2106-7-20**]  09:50 PM
                             [**2106-7-21**]  03:40 AM
   WBC
   10.3
   10.0
   Hct
   33.0
   31.6
   Plt
   358
   311
   Cr
   0.5
   0.5
   Glucose
   102
   89
   Other labs: PT / PTT / INR:15.0/33.0/1.3, ALT / AST:24/20, Alk Phos / T
   Bili:212/0.6, Differential-Neuts:70.6 %, Lymph:23.7 %, Mono:3.4 %,
   Eos:1.8 %, Lactic Acid:0.8 mmol/L, Albumin:2.3 g/dL, LDH:168 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Imaging: head ct: unchanged
   chest xray: rll opacity, stable
   neck ct: ? r ij thrombus; r neck collection?
   Microbiology: bcx: coag + staph
   Assessment and Plan
   32M with TBI, old non-functional VP shunts, now presents with proteus
   uti and ?suppurative thrombophlebitis of R IJ:
   suppurative thrombophlebitis: with bacteremia
   -neuro surgery and ent consult, after final review of neck films
   -continu vanco, follow levels
   -added zosyn for presumed polymicrobial infection, continue for now
   -awaiting tte for metastatic site
   -considering pe-pretocol ct looking for septic emboli
   -id consult for abx choice, duration of therapy
   -start anticoagulation
   seizures history
   -cont keppra
   uti
   -resend urine after completion of abx
   access
   -will avoid upper extremity lines; will do temporary femoral TLC for
   access
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2106-7-20**] 04:06 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   VAP: HOB elevation
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2106-07-22 07:00:00 Physician Resident Progress Note
Chief Complaint:
   Septic thrombophlebitis, right submandibular space infection
   24 Hour Events:
   [**2106-7-21**].
   - ID consulted.  They recommended narrowing coverated to Zosyn alone as
   it covers gram negative, anaerobes and has good MSSA coverage.  They
   agreed with removal of VA shunt by Neurosurg.  They are recommending
   consideration of TEE.
   - ENT consulted; recommended sour candy/[**Doctor Last Name 9897**] wedges to stimulate
   submandibular secretions and to monitor for neck fullness
   - Neurosurg consulted;  They will remove the Ventricular-Atrial Shunt
   on Friday after talking to the family.
   - Femoral line placed
   - Patient became hypotensive to the 70s at 10 PM after becoming
   febrile.  He was given 3LNS and then started on Levophed.  An a-line
   was also placed.  Remains on Levophed 0.08.
   - Patient transiently bradycardic to 30s, but recovered on his own, in
   setting of hypotension.
   - Radiology confirmed that one shunt is a V-P shunt and the other shunt
   is a ventricular-atrial shunt that runs through the right IJ
   - Per family, patient had a shunt placed in [**2091**] due to seizure
   activity.  He had no improvement with the first shunt, so a second was
   place, and seizures resolved.  Will need to obtain these records from
   [**Hospital 927**] [**Hospital **] Hospital in [**State **]
   - more episodes of sinus bradycardia to 50s overnight while sleeping;
   vagal tone while sleeping +/- neck pressure from neck swelling
   - worsening neck swelling --> CT scan versus ENT eval in AM?
   - WBC trending upward
   History obtained from Patient
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2106-7-21**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2106-7-21**] 03:45 PM
   Nafcillin - [**2106-7-21**] 06:35 PM
   Piperacillin - [**2106-7-21**] 11:58 PM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-7-21**] 08:00 AM
   Heparin Sodium - [**2106-7-22**] 03:21 AM
   Other medications:
   Levophed drip at 0.08
   Heparin Drip
   Zosyn day 2
   Keppra 1500 [**Hospital1 **]
   Tylenol
   Colace
   Baclofen 20 mg PO BID
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-7-22**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 35.8
C (96.5
   HR: 84 (57 - 119) bpm
   BP: 120/75(92) {90/54(68) - 127/75(95)} mmHg
   RR: 18 (9 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,894 mL
                                                                    305 mL
   PO:
                                                                    200 mL
             TF:
   IVF:
                                                                  4,694 mL
                                                                    305 mL
   Blood products:
   Total out:
                                                                  4,450 mL
                                                                  1,470 mL
   Urine:
                                                                  4,450 mL
                                                                  1,470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    444 mL
                                                                 -1,165 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.41/39/173/23/0
   Physical Examination
   Gen: swollen jaw
   HEENT:  increased right jaw swelling
   CV: RRR, no m/r/g
   Pulm: CTA b/l
   Abd: soft, NT, ND, bowel sounds present
   Ext: contractures of feet bilaterally
   Labs / Radiology
   393 K/uL
   10.0 g/dL
   127 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.7 mEq/L
   1 mg/dL
   110 mEq/L
   143 mEq/L
   31.3 %
   12.0 K/uL
        [image002.jpg]
                             [**2106-7-20**]  09:50 PM
                             [**2106-7-21**]  03:40 AM
                             [**2106-7-21**]  02:41 PM
                             [**2106-7-21**]  10:50 PM
                             [**2106-7-22**]  02:43 AM
                             [**2106-7-22**]  02:48 AM
   WBC
   10.3
   10.0
   12.0
   Hct
   33.0
   31.6
   31.3
   Plt
   358
   311
   393
   Cr
   0.5
   0.5
   0.5
   TCO2
   28
   22
   26
   Glucose
   102
   89
   127
   Other labs: PT / PTT / INR:14.5/49.2/1.3, ALT / AST:25/23, Alk Phos / T
   Bili:217/0.7, Differential-Neuts:68.5 %, Lymph:25.7 %, Mono:4.1 %,
   Eos:1.5 %, Lactic Acid:0.7 mmol/L, Albumin:2.5 g/dL, LDH:182 IU/L,
   Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   32 y/o M with hx of traumatic brain injury, paraplegia, and seizures
   presents admitted with UTI now here with submandibular infection and
   septic thrombophelbitis of the Right IJ associated with
   Ventricular-Atrial shunt that runs through the IJ with high grade staph
   aureaus bacteremia.
   .
   Septic thrombophlebitis/ Submandibular infection.  Patient has
   significiant right jaw swelling with R IJ thrombophlebitis and an
   adjacent submandibular space infection.  Patient has worsening of jaw
   swelling over the course of 36 hours.  Currently no drainable fluid
   collection and airway currently intact though tongue swelling is
   progressing.  Only positive culture data is high grade staph
   bacteremia.
   - continue zosyn for MSSA coverage and for coverage of oral GNRs and
   anaerobes
   - serial clinical exams
   - [**Doctor Last Name 9897**] wedges to stimulate submandibular gland secretions
   - monitor for signs of airway compromise
   - ID following
   - awaiting removal of V-A shunt which is presumed to be infected given
   staph bacteremia and presence of line at the site of septic
   thrombophlebitis
   - heparin drip for Right IJ thrombus
   - f/u RUE ultrasound to confirm presence of occlusive thrombus
   - consider CTA to look for septic pulmonary emboli if develops
   respiratory symptoms
   - will defer panorex given inability of patient to particapte in the
   studies
   .
   # Septic shock.  Source of infection is likely infected V-A shunt in
   Right IJ and adjacent submandibular infection.  Now with staph aureus
   bacteremia.  Also has proteus UTI.
   - zosyn to cover MSSA and oral anaerobes and GNS
   - IVF boluses to wean pressors
   - continue levophed
   - will discuss with neurosurg more urgent removal of V-A shunt given
   worsening of clnical status
   .
   # UTI - has pan-[**Last Name (un) **] proteus UTI, which is likely a separate process
   from the staph aureus bacteremia
   - continue Zosyn though repeat culture is negative
   .
   # Hydrocephalus - has known hydrocephalus and a shunt that was last
   imaged in [**7-24**] that showed a non-working shunt; in setting of new
   bacteremia and foreign body, would need to consider seeding, no
   evidence of altered mental status at this time, though.
   - head CT without change from last year
   - would need to consider lumbar puncture or shunt tap if the suspected
   source of bacteremia is negative
   - f/u neurosurg recs
   .
   # Seizures - stable, last seizure one year ago
   - continue keppra at home dose
   .
   # Contractures - stable, moves upper extremities, need to keep L arm
   restrained because patient likes to bite on it.
   - continue baclofen as has case reports of withdrawl from it
   - hold if hypotensive
   .
   # FEN - NPO for now, has passed speech and swallow and can have regular
   diet when he proves to be hemodynamically stable
   .
   # Access
 0 [**Last Name (LF) **], [**First Name3 (LF) 178**] place femoral line today, PICC when afebrile
   for period of time
   .
   # PPx
 hep gtt after line placement, no GI ppx indicated, bowel reg
   PRN, head of bed altered while mental status depressed
   .
   # Communication - with his mom (spanish speaking)
   .
   # Code - full, confirmed with mother
   .
   # Dispo - ICU overnight
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2106-7-21**] 01:47 PM
   Arterial Line - [**2106-7-21**] 11:06 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: no PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2106-07-22 08:59:00 Physician Attending Progress Note
Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   32M with TBI, several shunts, presents with RIJ thrombophlebitis and
   sepsis with MSSA bacteremia.
   24 Hour Events:
   -febrile, started norepi
   -neck continues to enlarge
   -ns and ent consults; plan for shunt removal on friday
   -id recs; abx adjusted
   -brady overnight
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, Unresponsive
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2106-7-21**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2106-7-21**] 03:45 PM
   Nafcillin - [**2106-7-21**] 06:35 PM
   Piperacillin - [**2106-7-21**] 11:58 PM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium - [**2106-7-22**] 03:21 AM
   Other medications:
   zosyn, baclofen, heparin, keppra
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Nutritional Support: NPO
   Respiratory: No(t) Dyspnea, No(t) Tachypnea
   Genitourinary: No(t) Dysuria, Foley
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2106-7-22**] 08:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.1
C (98.7
   HR: 73 (57 - 119) bpm
   BP: 117/72(90) {90/54(68) - 127/75(95)} mmHg
   RR: 19 (9 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,894 mL
                                                                    543 mL
   PO:
                                                                    200 mL
             TF:
   IVF:
                                                                  4,694 mL
                                                                    543 mL
   Blood products:
   Total out:
                                                                  4,450 mL
                                                                  1,710 mL
   Urine:
                                                                  4,450 mL
                                                                  1,710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    444 mL
                                                                 -1,167 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.41/39/173/23/0
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: Pupils dilated, unequal, minimally reactive
   Head, Ears, Nose, Throat: r neck swelling progesses
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   shallow breaths
   Abdominal: Soft, Non-tender, No(t) Tender:
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Cool
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.0 g/dL
   393 K/uL
   127 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.7 mEq/L
   1 mg/dL
   110 mEq/L
   143 mEq/L
   31.3 %
   12.0 K/uL
        [image002.jpg]
                             [**2106-7-20**]  09:50 PM
                             [**2106-7-21**]  03:40 AM
                             [**2106-7-21**]  02:41 PM
                             [**2106-7-21**]  10:50 PM
                             [**2106-7-22**]  02:43 AM
                             [**2106-7-22**]  02:48 AM
   WBC
   10.3
   10.0
   12.0
   Hct
   33.0
   31.6
   31.3
   Plt
   358
   311
   393
   Cr
   0.5
   0.5
   0.5
   TCO2
   28
   22
   26
   Glucose
   102
   89
   127
   Other labs: PT / PTT / INR:14.5/49.2/1.3, ALT / AST:25/23, Alk Phos / T
   Bili:217/0.7, Differential-Neuts:68.5 %, Lymph:25.7 %, Mono:4.1 %,
   Eos:1.5 %, Lactic Acid:0.7 mmol/L, Albumin:2.5 g/dL, LDH:182 IU/L,
   Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Imaging: tte: ?no comment on catheter
   ueni: pending
   Microbiology: mssa in bcx
   Assessment and Plan
   32M with TBI, several shunts, presented with intermittent resp
   distress, now with R IJ thrombophlebitis and MSSA bacteremia, awaiting
   removal of VA shunt by NS. Overnight recurrent of fever and hypotension
   concerning for ongoing sepsis, likely from foreign object:
   sepsis / septic shock:
   -cont zosyn, in discussion with id
   -cont support with norepi; monitor uop
   -awaiting source control surgery by NS (shunt removal)
   -check with echo quality of tte and ?need for TEE if persistent
   bacteremia, once intubated
   neck swelling / rij clot
   -cont heparin until surgery
   -urgent ask ENT to evaluate airway by laryngoscopy given continue
   swelling and tongue enlargement
   siezure d/o
   -cont keppra
   ICU Care
   Nutrition: NPO given tenuous resp status
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-7-21**] 01:47 PM
   Arterial Line - [**2106-7-21**] 11:06 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: Not indicated
   VAP: HOB elevation
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2106-07-23 07:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2106-7-22**] 05:37 PM
 BLOOD CULTURED - At [**2106-7-22**] 05:38 PM
 BLOOD CULTURED - At [**2106-7-23**] 04:00 AM
   .
   -ENT reconsulted,
   -BCX with coag + and coag - staph.
   -RUQ u/s showing thrombus in RIJ
   -neurosurg urged to remove shunt, they state vascular should remove
   portion in vessels
   -vasc consulted-will get back to us
   -facial swelling increasing, got repeat neck CT showingThrombus within
   right IJ with hyperenhancement of the wall and adjacent
   inflammatory stranding. Findings compatible with thrombophlebitis,
   Lemierre's syndrome. Inflammatory stranding diffusely throughout the
   right neck, most prominently in the right buccal-masseter space, though
   no drainable fluid collection. Edema in the oropharyngeal mucosa and
   uvula, without abscess. Left periapical lucencies surrounding several
   molars, can indicate ondotogenic
   disease/infection.
   -given IVF with bicarb
   -Keppra changed to IV, baclofen dc'd.
   -echo confirms presents of shunt in ra
   -ENT viewed CT scan of neck and said airway not compromised
   -ID-continue zosyn if decompensates consider meropenem. Also consider
   panorex/dental c/s
   -vascular stated ~630pm that neurosurg should remove all of the stent
   even if it's in the vessel.
   -attempted to wean pressor
   History obtained from Patient
   Patient unable to provide history: Unresponsive
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2106-7-21**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2106-7-21**] 03:45 PM
   Nafcillin - [**2106-7-21**] 06:35 PM
   Piperacillin - [**2106-7-23**] 12:00 AM
   Infusions:
   Heparin Sodium - 1,400 units/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium - [**2106-7-22**] 06:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-7-23**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.2
C (97.2
   HR: 71 (57 - 98) bpm
   BP: 162/150(156) {90/58(72) - 162/150(302)} mmHg
   RR: 17 (15 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,385 mL
                                                                  2,329 mL
   PO:
             TF:
   IVF:
                                                                  3,385 mL
                                                                  2,329 mL
   Blood products:
   Total out:
                                                                  3,910 mL
                                                                    940 mL
   Urine:
                                                                  3,910 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -525 mL
                                                                  1,389 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   Gen: swollen jaw
   HEENT:  decreased right jaw swelling
   CV: RRR, no m/r/g
   Pulm: CTA b/l
   Abd: soft, NT, ND, bowel sounds present
   Ext: contractures of feet bilaterally
   Labs / Radiology
   343 K/uL
   9.1 g/dL
   104 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.4 mEq/L
   1 mg/dL
   106 mEq/L
   138 mEq/L
   28.3 %
   9.2 K/uL
        [image002.jpg]
                             [**2106-7-20**]  09:50 PM
                             [**2106-7-21**]  03:40 AM
                             [**2106-7-21**]  02:41 PM
                             [**2106-7-21**]  10:50 PM
                             [**2106-7-22**]  02:43 AM
                             [**2106-7-22**]  02:48 AM
                             [**2106-7-23**]  03:55 AM
   WBC
   10.3
   10.0
   12.0
   9.2
   Hct
   33.0
   31.6
   31.3
   28.3
   Plt
   358
   311
   393
   343
   Cr
   0.5
   0.5
   0.5
   0.6
   TCO2
   28
   22
   26
   Glucose
   102
   89
   127
   104
   Other labs: PT / PTT / INR:15.5/116.7/1.4, ALT / AST:25/23, Alk Phos /
   T Bili:217/0.7, Differential-Neuts:63.7 %, Lymph:29.3 %, Mono:4.4 %,
   Eos:2.4 %, Lactic Acid:0.7 mmol/L, Albumin:2.5 g/dL, LDH:182 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 BACTEREMIA
   32 y/o M with hx of traumatic brain injury, paraplegia, and seizures
   presents admitted with UTI now here with submandibular infection and
   septic thrombophelbitis of the Right IJ associated with
   Ventricular-Atrial shunt that runs through the IJ with high grade staph
   aureaus bacteremia.
   .
   Septic thrombophlebitis/ Submandibular infection.  Patient has
   significiant right jaw swelling with R IJ thrombophlebitis and an
   adjacent submandibular space infection.  Patient has worsening of jaw
   swelling over the course of 36 hours.  Currently no drainable fluid
   collection and airway currently intact though tongue swelling is
   progressing.  Only positive culture data is high grade staph bacteremia
   of coag neg and positive types.
   - continue zosyn for MSSA coverage and for coverage of oral GNRs and
   anaerobes
   - serial clinical exams
   - [**Doctor Last Name 9897**] wedges to stimulate submandibular gland secretions
   - monitor for signs of airway compromise
   - ID following
   - awaiting removal of V-A shunt which is presumed to be infected given
   staph bacteremia and presence of line at the site of septic
   thrombophlebitis
   - heparin drip for Right IJ thrombus
   - RUE u/s confirms presents of IJ clot. CT neck as above. ECHO showing
   tip of shunt in RA.
   - CT chest.
   - will defer panorex given inability of patient to particapte in the
   studies
   - will discuss with ENT re: direct visualization of the airway if
   worsening clinical exam
   .
   Septic shock.  Source of infection is likely infected V-A shunt in
   Right IJ and adjacent submandibular infection.  Now with staph aureus
   bacteremia.  Also has proteus UTI.
   - zosyn to cover MSSA, coag neg staph, and oral anaerobes and GNS
   - IVF boluses to wean pressors
   - continue levophed
   - will discuss with neurosurg/vasc  re: removal of V-A shunt given
   worsening of clnical status
   .
   UTI - has pan-[**Last Name (un) **] proteus UTI, which is likely a separate process from
   the staph aureus bacteremia
   - continue Zosyn though repeat culture is negative
   .
   Hydrocephalus - has known hydrocephalus and a shunt that was last
   imaged in [**7-24**] that showed a non-working shunt; in setting of new
   bacteremia and foreign body, there is concern for hardware infection.
   - discuss with neurosurg re: removal of hardware
   .
   Seizures - stable, last seizure one year ago
   - continue keppra at home dose
   .
   Contractures - stable, moves upper extremities, need to keep L arm
   restrained because patient likes to bite on it.
   - continue baclofen as has case reports of withdrawl from it
   - hold if hypotensive
   .
   FEN - NPO for now given neck/airway swelling, has passed speech and
   swallow and can have regular diet when he proves to be hemodynamically
   stable. Will place NGT today.
   .
   Access
 femoral line, right radial a-line
   .
   PPx
 hep drip, no GI ppx indicated, bowel reg PRN, head of bed altered
   while mental status depressed
   .
   Communication - with his mom (spanish speaking)
   .
   Code - full, confirmed with mother
   .
   Dispo - ICU overnight
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-7-21**] 01:47 PM
   Arterial Line - [**2106-7-21**] 11:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2106-07-23 10:22:00 Physician Attending Progress Note
Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   32M with tbi, va shunt, c/b suppurative thrombophlebitis of the R IJ,
   polymicrobial bacteremia:
   24 Hour Events:
   -ent reviewed ct, no need for exam or intubation
   -ongoing discussion between various surgical services about procedures
   -additional imaging, no surprises
   -continued pressor requirement
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2106-7-21**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2106-7-21**] 03:45 PM
   Nafcillin - [**2106-7-21**] 06:35 PM
   Piperacillin - [**2106-7-23**] 12:00 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Heparin Sodium - 1,400 units/hour
   Other ICU medications:
   Heparin Sodium - [**2106-7-22**] 06:40 PM
   Other medications:
   keppra iv
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain
   Nutritional Support: NPO
   Respiratory: No(t) Cough, No(t) Dyspnea
   Genitourinary: Foley
   Endocrine: Hyperglycemia
   Signs or concerns for abuse
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2106-7-23**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.2
C (97.2
   HR: 71 (57 - 98) bpm
   BP: 162/150(156) {90/58(72) - 162/150(302)} mmHg
   RR: 17 (15 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,385 mL
                                                                  2,391 mL
   PO:
             TF:
   IVF:
                                                                  3,385 mL
                                                                  2,391 mL
   Blood products:
   Total out:
                                                                  3,910 mL
                                                                    940 mL
   Urine:
                                                                  3,910 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -525 mL
                                                                  1,451 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: unequal pupils, stable
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ), shallow breaths
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Tender: ,
   No(t) Obese
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.1 g/dL
   343 K/uL
   104 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.4 mEq/L
   1 mg/dL
   106 mEq/L
   138 mEq/L
   28.3 %
   9.2 K/uL
        [image002.jpg]
                             [**2106-7-20**]  09:50 PM
                             [**2106-7-21**]  03:40 AM
                             [**2106-7-21**]  02:41 PM
                             [**2106-7-21**]  10:50 PM
                             [**2106-7-22**]  02:43 AM
                             [**2106-7-22**]  02:48 AM
                             [**2106-7-23**]  03:55 AM
   WBC
   10.3
   10.0
   12.0
   9.2
   Hct
   33.0
   31.6
   31.3
   28.3
   Plt
   358
   311
   393
   343
   Cr
   0.5
   0.5
   0.5
   0.6
   TCO2
   28
   22
   26
   Glucose
   102
   89
   127
   104
   Other labs: PT / PTT / INR:15.5/116.7/1.4, ALT / AST:25/23, Alk Phos /
   T Bili:217/0.7, Differential-Neuts:63.7 %, Lymph:29.3 %, Mono:4.4 %,
   Eos:2.4 %, Lactic Acid:0.7 mmol/L, Albumin:2.5 g/dL, LDH:182 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Imaging: ct chest:
   Suboptimal enhancement of pulmonary arteries. Only main pulmonary
   artery as
   well as right and left main pulmonary arteries can be evaluated with no
   evidence of pulmonary emboli seen at that level.
   Known thrombosis of the right internal jugular vein with no extension
   into the
   brachiocephalic vein with only minimal questionable thrombus adjacent
   to the
   wall of the very superior SVC with the rest of the SVC being free of
   thrombus.
   Bibasal atelectasis.
   Tracheal bronchus supplementing right upper lobe apical segment.
   Cholelithiasis with no evidence of cholecystitis.
   cxr: improved l base opacities
   Microbiology: mssa, coag neg
   Assessment and Plan
   32M with tbi, va shunt, c/b suppurative thrombophlebitis of the R IJ,
   polymicrobial bacteremia, septic shock, awaiting surgical removal of VA
   shunt:
   thrombophlebitis and septic shock: good uop
   -awaiting surgical procedure for source control
   -cont zosyn, with id following
   -cont heparin gtt for now
   -goal to titrate to off pressors, map goal > 60
   access
   -ngt for nutrition, po meds
   szr
   -cont keppra
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2106-7-21**] 01:47 PM
   Arterial Line - [**2106-7-21**] 11:06 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2106-07-24 07:42:00 Physician Resident Progress Note
Chief Complaint: lemierre's disease
   24 Hour Events:
   [**2106-7-23**]
   - doing well over course of the morning
   - psych added valproic acid to regimen
   - around 6 pm, got very aggitated and required multiple doses of both
   PO and IV haldol
   - had torticollis, responded to benadryl
   - called back in due to HRs in 130s for >2 hrs
   - very aggitated overnight, threatening to leave AMA, got total or 40
   mg IV and PO during acute episode
   - restarted phenobarbitol PRN (given x1)
   - calmed overnight after discussing restraints
   History obtained from Medical records
   Patient unable to provide history: Unresponsive, Language barrier
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2106-7-21**] 03:45 PM
   Nafcillin - [**2106-7-21**] 06:35 PM
   Vancomycin - [**2106-7-23**] 08:10 PM
   Piperacillin - [**2106-7-24**] 12:00 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2106-7-24**] 04:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-7-24**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.9
C (98.4
   HR: 97 (76 - 114) bpm
   BP: 108/75(88) {100/65(81) - 145/132(333)} mmHg
   RR: 22 (0 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  5,808 mL
                                                                    854 mL
   PO:
             TF:
                                                                     39 mL
                                                                    178 mL
   IVF:
                                                                  5,769 mL
                                                                    676 mL
   Blood products:
   Total out:
                                                                  3,920 mL
                                                                  1,560 mL
   Urine:
                                                                  3,920 mL
                                                                  1,560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,888 mL
                                                                   -706 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   HEENT: right neck, jaw swelling, no erythema/fluctuance
   CV: RRR, no m/r/g
   Pulm: CTA b/l
   Abd: Soft, NT, ND, Bowel sounds present
   Ext: contractures of feet bilaterally
   Labs / Radiology
   318 K/uL
   9.3 g/dL
   89 mg/dL
   0.5 mg/dL
   23 mEq/L
   4.0 mEq/L
   1 mg/dL
   108 mEq/L
   141 mEq/L
   28.0 %
   7.6 K/uL
        [image002.jpg]
                             [**2106-7-20**]  09:50 PM
                             [**2106-7-21**]  03:40 AM
                             [**2106-7-21**]  02:41 PM
                             [**2106-7-21**]  10:50 PM
                             [**2106-7-22**]  02:43 AM
                             [**2106-7-22**]  02:48 AM
                             [**2106-7-23**]  03:55 AM
                             [**2106-7-24**]  03:52 AM
   WBC
   10.3
   10.0
   12.0
   9.2
   7.6
   Hct
   33.0
   31.6
   31.3
   28.3
   28.0
   Plt
   358
   311
   393
   343
   318
   Cr
   0.5
   0.5
   0.5
   0.6
   0.5
   TCO2
   28
   22
   26
   Glucose
   102
   89
   127
   104
   89
   Other labs: PT / PTT / INR:15.2/34.8/1.3, ALT / AST:38/63, Alk Phos / T
   Bili:202/0.5, Differential-Neuts:63.7 %, Lymph:29.3 %, Mono:4.4 %,
   Eos:2.4 %, Lactic Acid:0.7 mmol/L, Albumin:2.5 g/dL, LDH:199 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   32 y/o M with hx of traumatic brain injury, paraplegia, and seizures
   presents admitted with UTI now here with submandibular infection and
   septic thrombophelbitis of the Right IJ associated with
   Ventricular-Atrial shunt that runs through the IJ with high grade staph
   aureaus bacteremia.
   .
   Septic thrombophlebitis/ Submandibular infection.  Patient has
   significiant right jaw swelling with R IJ thrombophlebitis and an
   adjacent submandibular space infection.  Patient has worsening of jaw
   swelling over the course of 36 hours.  Currently no drainable fluid
   collection and airway currently intact though tongue swelling is
   progressing.  Only positive culture data is high grade staph bacteremia
   of coag neg and positive types.
   - continue zosyn for MSSA coverage and for coverage of oral GNRs and
   anaerobes
   - serial clinical exams
   - [**Doctor Last Name 9897**] wedges to stimulate submandibular gland secretions
   - monitor for signs of airway compromise
   - ID following
   - awaiting removal of V-A shunt which is presumed to be infected given
   staph bacteremia and presence of line at the site of septic
   thrombophlebitis
   - heparin drip for Right IJ thrombus
   - RUE u/s confirms presents of IJ clot. CT neck as above. ECHO showing
   tip of shunt in RA.
   - CT chest.
   - will defer panorex given inability of patient to particapte in the
   studies
   - will discuss with ENT re: direct visualization of the airway if
   worsening clinical exam
   .
   Septic shock.  Source of infection is likely infected V-A shunt in
   Right IJ and adjacent submandibular infection.  Now with staph aureus
   bacteremia.  Also has proteus UTI.
   - zosyn to cover MSSA, coag neg staph, and oral anaerobes and GNS
   - IVF boluses to wean pressors
   - continue levophed
   - will discuss with neurosurg/vasc  re: removal of V-A shunt given
   worsening of clnical status
   .
   UTI - has pan-[**Last Name (un) **] proteus UTI, which is likely a separate process from
   the staph aureus bacteremia
   - continue Zosyn though repeat culture is negative
   .
   Hydrocephalus - has known hydrocephalus and a shunt that was last
   imaged in [**7-24**] that showed a non-working shunt; in setting of new
   bacteremia and foreign body, there is concern for hardware infection.
   - discuss with neurosurg re: removal of hardware
   .
   Seizures - stable, last seizure one year ago
   - continue keppra at home dose
   .
   Contractures - stable, moves upper extremities, need to keep L arm
   restrained because patient likes to bite on it.
   - continue baclofen as has case reports of withdrawl from it
   - hold if hypotensive
   .
   FEN - NPO for now given neck/airway swelling, has passed speech and
   swallow and can have regular diet when he proves to be hemodynamically
   stable. Will place NGT today.
   .
   Access
 femoral line, right radial a-line
   .
   PPx
 hep drip, no GI ppx indicated, bowel reg PRN, head of bed altered
   while mental status depressed
   .
   Communication - with his mom (spanish speaking)
   .
   Code - full, confirmed with mother
   .
   Dispo - ICU overnight
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2106-7-23**] 08:06 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2106-7-21**] 01:47 PM
   Arterial Line - [**2106-7-21**] 11:06 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2106-07-24 10:05:00 Physician Attending Progress Note
Chief Complaint: septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   32M with TBI, VP and VA shunt, presented with septic thrombophlebitis
   of the RIJ, now improved on medical managment:
   24 Hour Events:
   -no surgical intervention
   -swtichted to lovenox
   -midline placed this am
   -vanco restarted
   -ngt placed
   -fluid boluses for low MAPs; great UOP
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2106-7-21**] 03:45 PM
   Nafcillin - [**2106-7-21**] 06:35 PM
   Piperacillin - [**2106-7-24**] 08:17 AM
   Vancomycin - [**2106-7-24**] 08:17 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2106-7-24**] 04:50 AM
   Other medications:
   zosyn, keppra, lovenox, vanco,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Eyes: No(t)  Blurry vision
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Respiratory: No(t) Dyspnea, No(t) Tachypnea
   Genitourinary: Foley
   Endocrine: No(t) Hyperglycemia
   Signs or concerns for abuse : No
   Pain: Unable to answer
   Flowsheet Data as of  [**2106-7-24**] 10:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (99
   HR: 110 (76 - 114) bpm
   BP: 113/79(94) {100/65(81) - 145/132(333)} mmHg
   RR: 22 (16 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
             Total In:
                                                                  5,808 mL
                                                                  1,240 mL
   PO:
             TF:
                                                                     39 mL
                                                                    243 mL
   IVF:
                                                                  5,769 mL
                                                                    997 mL
   Blood products:
   Total out:
                                                                  3,920 mL
                                                                  1,920 mL
   Urine:
                                                                  3,920 mL
                                                                  1,920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,888 mL
                                                                   -680 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: pupils unequal, stable
   Head, Ears, Nose, Throat: Normocephalic, NG tube, neck improved -- less
   tender
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.3 g/dL
   318 K/uL
   89 mg/dL
   0.5 mg/dL
   23 mEq/L
   4.0 mEq/L
   1 mg/dL
   108 mEq/L
   141 mEq/L
   28.0 %
   7.6 K/uL
        [image002.jpg]
                             [**2106-7-20**]  09:50 PM
                             [**2106-7-21**]  03:40 AM
                             [**2106-7-21**]  02:41 PM
                             [**2106-7-21**]  10:50 PM
                             [**2106-7-22**]  02:43 AM
                             [**2106-7-22**]  02:48 AM
                             [**2106-7-23**]  03:55 AM
                             [**2106-7-24**]  03:52 AM
   WBC
   10.3
   10.0
   12.0
   9.2
   7.6
   Hct
   33.0
   31.6
   31.3
   28.3
   28.0
   Plt
   358
   311
   393
   343
   318
   Cr
   0.5
   0.5
   0.5
   0.6
   0.5
   TCO2
   28
   22
   26
   Glucose
   102
   89
   127
   104
   89
   Other labs: PT / PTT / INR:15.2/34.8/1.3, ALT / AST:38/63, Alk Phos / T
   Bili:202/0.5, Differential-Neuts:63.7 %, Lymph:29.3 %, Mono:4.4 %,
   Eos:2.4 %, Lactic Acid:0.7 mmol/L, Albumin:2.5 g/dL, LDH:199 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Imaging: no new
   Microbiology: waiting for sensies
   Assessment and Plan
   32M with TBI, VP and VA shunt, with septic throbombophlebitis of the
   RIJ and polymicrobial bacteremia, now improving without a surgical
   intervention. Given improvement and morbidity of a surgical
   intervention, reasonable to proceed with medical management:
   sepsis and suppurative throbmophlebitis
   -cont abx, incl vanco, awaiting sensies on coag neg staph; ID will help
   with defining length of tx
   -no surgery
   -cont lovenox indefinitely; possible transition to coumadin if reliable
   PO access
   hypotension: lower map goal
   -fluids prn
   AST elevation?
   -check ck
   dysphagea
   -ngt for now
   -reassess swallow when on floor
   ICU Care
   Nutrition: tube feeds
   Replete with Fiber (Full) - [**2106-7-23**] 08:06 PM 30 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2106-7-21**] 01:47 PM
   Arterial Line - [**2106-7-21**] 11:06 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes